US06121258
A mixture of benzyl l-benzyl-3-[(4-methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxylate (518 mg, 1.0 mmol) and 10% Pd/C (50 mg) in methanol (25 mL) is stirred under hydrogen atmosphere for 45 minutes. The mixture is filtered over celite and the filtrate is collected and concentrated under reduced pressure to give 1-benzyl-3-[(4-methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxylic acid as a glassy solid.

reactant | benzyl l-benzyl-3-[(4-methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxylate | 1.0 mmol, 518 mg | C(C1=CC=CC=C1)N1CN([C@H](CC1=O)C(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H26N2O6S
solvent | methanol | 25 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 1-benzyl-3-[(4-methoxyphenyl)sulfonyl]-6-oxo-hexahydro-pyrimidine-4(R)-carboxylic acid | C(C1=CC=CC=C1)N1CN([C@H](CC1=O)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H20N2O6S
